2102-11-16 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -mental status improved
   -respiratory status improved: on NC and doing well w/ O2 sats in upper
   90s; NIFs X 2 were -25 and then around midnight -30
   -did complete 5 doses of IVIG
   -did not get plasmapheresis today per path; touch base w/ neuro
   tomorrow about whether or not to get plasmapheresis + IR about line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-11-15**] 08:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-16**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 71 (53 - 72) bpm
   BP: 115/56(71) {91/48(58) - 127/73(83)} mmHg
   RR: 22 (9 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    674 mL
                                                                    508 mL
   PO:
             TF:
   IVF:
                                                                    554 mL
                                                                    388 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                    440 mL
   Urine:
                                                                    675 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -1 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 193 (193 - 400) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: 7.38/54/162/32/5
   NIF: -30 cmH2O
   Ve: 5 L/min
   PaO2 / FiO2: 405
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   91 K/uL
   10.9 g/dL
   92 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.1 mEq/L
   8 mg/dL
   105 mEq/L
   140 mEq/L
   31.9 %
   4.8 K/uL
        [image002.jpg]
                            [**2102-11-15**]  06:21 PM
                            [**2102-11-16**]  03:17 AM
                            [**2102-11-16**]  03:28 AM
   WBC
   4.4
   4.8
   Hct
   30.7
   31.9
   Plt
   90
   91
   Cr
   0.7
   0.7
   TCO2
   33
   Glucose
   106
   92
   Other labs: PT / PTT / INR:13.0/92.0/1.1, ALT / AST:18/24, Alk Phos / T
   Bili:48/1.2, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: + AchR Ab
   Imaging: no thymoma on CT or CXR
   Assessment and Plan
   A/P:
   This is an 81 year old man w constellation of sxs beginning with left
   sided hearing loss, left sided ptosis, vertical diplopia, dysphagia,
   fatigue, and most recently while hospitalized, increasing respiratory
   distress consistent with myasthenia [**Last Name (un) 1209**].  Differential includes
   [**Location (un) 9427**]-[**Location (un) 5463**] but made less likely given progressive weakness, multiple
   sclerosis also made less likely by normal MRI.   Etiologies for MG :
   thymoma unlikely given
CT; has hx of asbestos exposure so association
   of MG with mesothelioma?
   (1) Respiratory distress:  Likely secondary to neuromuscular disease
   given low NIFs (initially was -20) w/ reduced vital capacities,
   secondary to MG.  Respiratory status has improved o/n, currently on NC
   w/ O2 saturations in the upper 90s.
   -Would continue on NC today
   -Check NIFs q8 hrs to look for continued improvement
   -prior CXR does not support any edema or PNA ; F/u cxr from this AM
   (1b) for neuromusc disease - diff dx is myasthenia vs [**Location (un) **] [**Location (un) **] vs
   ms: Myasthenia very likely given +ACHR Ab and negative MRI findings for
   other neurological disease.
   -continue pyridostigmine
   -continue low dose prednisone 10 mg daily; would not use higher dose as
   this can precipitate MG
   -plasmaphresis vs IVIG: according to clinical trials, both are equally
   effective with similar outcomes in the long run; plasmapheresis does
   have quicker onset of activity however given AS it could compromise his
   hemodynamics as he is likely preload dependant.  Did receive full
   course of IVIG and pt appears to be improving.  Given improvement,
   touch base w/ neurology in terms of holding off on plasmapheresis.
   -CT does not show thymoma
   -look into mesothelioma association with MG
   .
   (2) Aortic Stenosis- Per prior echo has severe AS with valve area of
   0.8 and EF of 60%.  Would be cautious with plasmapheresis given
   valvular disease and would touch base with path re: plasmaphresis prior
   to initiation.
   -Is on afterload reduction with enalapril and hydralazine; if going for
   plasmapheresis, would hold additional doses of these today
   .
   (3) Leukopenia - WBC ranging from 2.3 to 4.8.  Differential is
   underlying infection versus bone marrow suppression versus
   dilutional.
   -Continue to tx underlying UTI w/ ampicillin course for 10 days
   -Obtain bcxs, CXR and follow up culture results
   -IVIG  frequently causes anemia and thrombocytopenia but not commonly
   leukopenia, however all cell lines fell immediately after IVIG course
   was initiated, making this a suspicious [**Doctor Last Name **].  WBC has since rebounded
   after IVIG course was complete.
   -Trend daily WBCs
   .
   (4) Anemia - HCT was 41 on admission and fell to 31 along with WBC and
   platelets; possible that this is secondary to volume status as
   Creatinine was 0.9 and has come down to 0.7.  Possible that patient was
   volume depleted as he was having difficulty swallowing and could have
   been taking poor PO at home.
   -HCT began to fall just after IVIG administration; could be secondary
   to this.  Currently HCTs are stable.  Have stabilized following
   completion of IVIG course.
   -F/u retic counts, iron studies.
   -daily HCTs
   (5) GERD
   -Continue PPI [**Hospital1 **]
   (6) Osteoporosis
   -Cotinue alendronate, calcium, vitamin D
   (7) Insomnia
   -Continue trazadone PRN insomnia
   (8) Glucose intolerance
   -Continue ISS given currently getting prednisone course
   (9) Prophylaxis - SC heparin, bowel regimen, PPI
   (10) Code status - full
   (11) Dispo - given improvement in respiratory status, likely to not
   require any respiratory interventions.   Touch base w/ neuro re:
   plasmapheresis, if no pheresis can likely go to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-11-15**] 12:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-11-16 09:51:00 Physician Attending Progress Note
Chief Complaint: [**First Name9 (NamePattern2) 9413**] [**Last Name (un) 1209**], Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Improving mental status overnight
   NIFs improved to -35
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-11-15**] 08:07 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-11-16**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.3
   HR: 70 (53 - 72) bpm
   BP: 152/69(87) {91/48(58) - 152/73(87)} mmHg
   RR: 22 (9 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    674 mL
                                                                    595 mL
   PO:
             TF:
   IVF:
                                                                    554 mL
                                                                    475 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                    500 mL
   Urine:
                                                                    675 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -1 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 193 (193 - 400) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 93%
   ABG: 7.38/54/162/32/5
   NIF: -50 cmH2O
   Ve: 5 L/min
   PaO2 / FiO2: 405
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), loud,
   harsh AS murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   Elevated L hemidiaphragm by auscultation
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   10.9 g/dL
   91 K/uL
   92 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.1 mEq/L
   8 mg/dL
   105 mEq/L
   140 mEq/L
   31.9 %
   4.8 K/uL
        [image002.jpg]
                            [**2102-11-15**]  06:21 PM
                            [**2102-11-16**]  03:17 AM
                            [**2102-11-16**]  03:28 AM
   WBC
   4.4
   4.8
   Hct
   30.7
   31.9
   Plt
   90
   91
   Cr
   0.7
   0.7
   TCO2
   33
   Glucose
   106
   92
   Other labs: PT / PTT / INR:13.0/92.0/1.1, ALT / AST:18/24, Alk Phos / T
   Bili:48/1.2, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 .H/O [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   81 yo man with new dx of [**First Name9 (NamePattern2) **] [**Last Name (un) 1209**], transferred to MICU for
   hypercarbic respiratory failure.
   [**Last Name (un) 9413**] crisis: Improved today - decline in mental status that is
   now resolved seems to be at least partially due to UTI that is now
   adequately treated on ampicillin.  Completed IvIg course.  Now getting
   a line for plasmapheresis.  Will need to monitor closely while getting
   pheresis given critical AS.  Cont low dose steroids and acetylcholine
   esterase inhibitor.
   UTI: cont amp
   Elevated PTT: Change sq heparin to [**Hospital1 **] - change ppx to boots.  Check
   fibrinogen in anticipation of pheresis.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-11-15**] 12:54 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2102-11-17 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -mental status improved
   -respiratory status improved: on NC and doing well w/ O2 sats in upper
   90s; NIFs X 2 were -25 and then around midnight -30
   -did not get plasmapheresis today per path; touch base w/ neuro
   tomorrow about whether or not to get plasmapheresis
   - Hepzyme shows PTT was entirely due to Heparin
   - Neuro recs: catheter placed, plasmapheresis
   - did complete 5 doses of IVIG
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-17**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 92 (65 - 92) bpm
   BP: 126/67(80) {116/57(73) - 154/78(90)} mmHg
   RR: 17 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    985 mL
                                                                    521 mL
   PO:
             TF:
   IVF:
                                                                    865 mL
                                                                    521 mL
   Blood products:
   Total out:
                                                                  1,173 mL
                                                                    500 mL
   Urine:
                                                                  1,173 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -188 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///34/
   NIF: -40 cmH2O
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   82 K/uL
   10.6 g/dL
   80 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.2 mEq/L
   7 mg/dL
   104 mEq/L
   143 mEq/L
   30.0 %
   4.9 K/uL
        [image002.jpg]
                            [**2102-11-15**]  06:21 PM
                            [**2102-11-16**]  03:17 AM
                            [**2102-11-16**]  03:28 AM
                            [**2102-11-17**]  03:46 AM
   WBC
   4.4
   4.8
   4.9
   Hct
   30.7
   31.9
   30.0
   Plt
   90
   91
   82
   Cr
   0.7
   0.7
   0.5
   TCO2
   33
   Glucose
   106
   92
   80
   Other labs: PT / PTT / INR:12.8/58.0/1.1, ALT / AST:18/24, Alk Phos / T
   Bili:48/1.2, Fibrinogen:405 mg/dL, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:1.9 mg/dL
   Fluid analysis / Other labs: Total Iron Binding Capacity 235* ug/dL 260
   - 470
   Ferritin 84 ng/mL 30 - 400
   Transferrin 181* mg/dL 200 - 360
   Retic 1.9%
   Imaging: CXR:
   Microbiology: UCX: enterococcus
   BCx: pending
   Assessment and Plan
   This is an 81yo man w constellation of sxs beginning with left sided
   hearing loss, left sided ptosis, vertical diplopia, dysphagia, fatigue,
   and most recently while hospitalized, increasing respiratory distress
   consistent with myasthenia [**Last Name (un) 1209**].  Differential includes [**Location (un) 9427**]-[**Location (un) 5463**]
   but made less likely given progressive weakness, multiple sclerosis
   also made less likely by normal MRI.   Etiologies for MG : thymoma
   unlikely given
CT; has hx of asbestos exposure so association of MG
   with mesothelioma?
   # Respiratory distress:  Likely secondary to neuromuscular disease
   given low NIFs (initially was -20) w/ reduced vital capacities,
   secondary to MG.  Respiratory status has improved o/n, currently on NC
   w/ O2 saturations in the upper 90s.  NIFs -45, VC 1-1.2
   - Would continue on NC today
   - Check NIFs q8 hrs to look for continued improvement
   - prior CXR does not support any edema or PNA
   # Neuromuscular disease - diff dx is myasthenia vs [**Location (un) **] [**Location (un) **] vs ms:
   Myasthenia very likely given +ACHR Ab and negative MRI findings for
   other neurological disease.
   -continue pyridostigmine
   -continue low dose prednisone 10 mg daily; would not use higher dose as
   this can precipitate MG
   -plasmaphresis vs IVIG: according to clinical trials, both are equally
   effective with similar outcomes in the long run; plasmapheresis does
   have quicker onset of activity however given AS it could compromise his
   hemodynamics as he is likely preload dependant.  Did receive full
   course of IVIG and pt appears to be improving.  Given improvement,
   touch base w/ neurology in terms of holding off on plasmapheresis.
   -CT does not show thymoma
   -look into mesothelioma association with MG
   # Aortic Stenosis- Per prior echo has severe AS with valve area of 0.8
   and EF of 60%.  Would be cautious with plasmapheresis given valvular
   disease and would touch base with path re: plasmaphresis prior to
   initiation.
   -Is on afterload reduction with enalapril and hydralazine; if going for
   plasmapheresis, would hold additional doses of these today
   # Leukopenia - WBC ranging from 2.3 to 4.8.  Differential is underlying
   infection versus bone marrow suppression versus dilutional.
   -Continue to tx underlying UTI w/ ampicillin course for 10 days
   -Obtain bcxs, CXR and follow up culture results
   -IVIG  frequently causes anemia and thrombocytopenia but not commonly
   leukopenia, however all cell lines fell immediately after IVIG course
   was initiated, making this a suspicious [**Doctor Last Name **].  WBC has since rebounded
   after IVIG course was complete.
   -Trend daily WBCs
   (4) Anemia - HCT was 41 on admission and fell to 31 along with WBC and
   platelets; possible that this is secondary to volume status as
   Creatinine was 0.9 and has come down to 0.7.  Possible that patient was
   volume depleted as he was having difficulty swallowing and could have
   been taking poor PO at home.  Retic 1.9%, TIBC and transferrin low,
   ferritin normal, likely component of chornic disease
   -HCT began to fall just after IVIG administration; could be secondary
   to this.  Currently HCTs are stable.  Have stabilized following
   completion of IVIG course.
   -F/u retic counts, iron studies.
   -daily HCTs
   (5) GERD
   -Continue PPI [**Hospital1 **]
   (6) Osteoporosis
   -Cotinue alendronate, calcium, vitamin D
   (7) Insomnia
   -Continue trazadone PRN insomnia
   (8) Glucose intolerance
   -Continue ISS given currently getting prednisone course
   (9) Prophylaxis - SC heparin, bowel regimen, PPI
   (10) Code status - full
   (11) Dispo - given improvement in respiratory status, likely to not
   require any respiratory interventions.   Neuro would like monitoring
   post plasmaphoresis given h/o AS.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-11-15**] 12:54 PM
   Dialysis Catheter - [**2102-11-16**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-11-17 10:48:00 Physician Attending Progress Note
Chief Complaint: [**First Name9 (NamePattern2) 9413**] [**Last Name (un) 1209**], Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   NIFs much improved - now in 40s.  VCs up to 1.2L
   24 Hour Events:
 DIALYSIS CATHETER - START [**2102-11-16**] 11:00 AM
   Did not initiate plasmapheresis yesterday due to high PTT - coming down
   with holding of subq heparin
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2102-11-17**] 08:20 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-11-17**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.3
   HR: 82 (67 - 92) bpm
   BP: 119/48(65) {111/48(65) - 154/78(90)} mmHg
   RR: 21 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    985 mL
                                                                    951 mL
   PO:
             TF:
   IVF:
                                                                    865 mL
                                                                    791 mL
   Blood products:
   Total out:
                                                                  1,173 mL
                                                                    700 mL
   Urine:
                                                                  1,173 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -188 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///34/
   NIF: -44 cmH2O
   Physical Examination
   General Appearance: No acute distress, cough slightly weak
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), loud AS
   murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, able to take deep
   breaths, voice strong
   Labs / Radiology
   10.6 g/dL
   82 K/uL
   80 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.2 mEq/L
   7 mg/dL
   104 mEq/L
   143 mEq/L
   30.0 %
   4.9 K/uL
        [image002.jpg]
                            [**2102-11-15**]  06:21 PM
                            [**2102-11-16**]  03:17 AM
                            [**2102-11-16**]  03:28 AM
                            [**2102-11-17**]  03:46 AM
   WBC
   4.4
   4.8
   4.9
   Hct
   30.7
   31.9
   30.0
   Plt
   90
   91
   82
   Cr
   0.7
   0.7
   0.5
   TCO2
   33
   Glucose
   106
   92
   80
   Other labs: PT / PTT / INR:12.8/58.0/1.1, ALT / AST:18/24, Alk Phos / T
   Bili:48/1.2, Fibrinogen:405 mg/dL, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:1.9 mg/dL
   Assessment and Plan
 .H/O [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   81 yo man with new dx of [**First Name9 (NamePattern2) **] [**Last Name (un) 1209**], transferred to MICU for
   hypercarbic respiratory failure.
   [**Last Name (un) 9413**] crisis: Continues to improve by NIFs and VCs.  Completed
   IvIg course.  Plasmapheresis catheter in place if it proves to be
   necessary - holding on phereis for now given improvement
   UTI: cont amp
   Elevated PTT: Coming down with holding sq heparin
   Will call out to neuro.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-11-15**] 12:54 PM
   Dialysis Catheter - [**2102-11-16**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin(sq heparin on hold)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor (neuro)
   Total time spent: